US08049015B2
3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-N-methyl-benzamide and bis(pinacolato)diboron were reacted as described in Example 1, Step 8 to provide 3-[N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-N-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide.

reactant | 3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-N-methyl-benzamide | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC=1C=C(C(=O)NC)C=CC1Br | C20H21BrN2O2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | N-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | CNC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C14H20BNO3
